* C:\Users\nutch\MEGA\_Studying\Intern Work\LT_Simulation\Char_NMOS_VA\N018_Char.asc
V1 N002 0 {Vgs}
Vds N001 0 10 Rser=10
M1 N001 N002 0 0 N018 l=0.5u w=10u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nutch\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmos018_TT.lib
.dc Vds 0 2 0.002
.step param Vgs 0.40 0.70 0.1
.backanno
.end
