* C:\Users\nutch\MEGA\_Studying\Intern Work\LT_Simulation\Char_NMOS_Vth_kn\N018_Char.asc
Vgs N002 0 1
Vds N001 0 5 Rser=10
M1 N001 N002 0 0 N018 l=0.5u w={X}
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nutch\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmos018_TT.lib
.dc Vgs 0 3 0.002
.step param X 10u 50u 10u
.backanno
.end
