* C:\Users\nutch\MEGA\_Studying\Intern Work\LT_Simulation\Char_PMOS_VA\P018_Char.asc
V1 N001 N002 {Vgs}
Vds N001 0 10 Rser=10
M1 0 N002 N001 N001 P018 l=0.5u w=10u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\nutch\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.include cmos018_TT.lib
.dc Vds 0 5 0.002
.step param Vgs 0.4 0.7 0.1
.backanno
.end
